US05739333
N-{6-[2-(5-Bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxyphenoxy)-2-morpholinopyrimidin-4-yl}-2-thiophenesulfonamide:
A mixture of 4-amino-6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxyphenoxy)-2-morpholinopyrimidine (200 mg), sodium hydride (60% dispersion, 46.2 mg) and tetrahydrofuran (6 ml) is stirred at room temperature for 20 minutes. To the mixture is added 2-thiophenesulfonyl chloride (211 mg), and the mixture is stirred for 20 hours. The reaction solution is treated with a saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated under reduced pressure to remove the solvent. The residue is recrystallized from ether-hexane to give the title compound (46 mg).

reactant | 4-amino-6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxyphenoxy)-2-morpholinopyrimidine | 200 mg | NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCOC1=NC=C(C=N1)Br)N1CCOCC1 | C21H23BrN6O5
reactant | sodium hydride | 46.2 mg | [H-].[Na+]
reactant | 2-thiophenesulfonyl chloride | 211 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-{6-[2-(5-Bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxyphenoxy)-2-morpholinopyrimidin-4-yl}-2-thiophenesulfonamide | 46 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC(=N1)N1CCOCC1)NS(=O)(=O)C=1SC=CC1)OC1=C(C=CC=C1)OC | C25H25BrN6O7S2
